US05084593
1,5-bis-(p-dimethylaminophenyl)-1,5-bis-(p-methoxyphenyl)-1,4-pentadiene-3-acetylacetone (Leuco Dye No. 20)
1.2 g of a 60% sodium hydride was dispersed in 200 ml of well-dried N,N-dimethylformamide (DMF) in a 300-ml. Erlenmeyer flask. To this dispersion, 3.00 g of acetylacetone was slowly added at room temperature and the mixture was stirred for 1 hour. To this mixture, 12.3 g of 1,5-bis-(p-dimethylaminophenyl)-1,5-bis-(p-methoxyphenyl)-2,4-pentadiene-1-ol-perchlorate prepared in Synthesis Example 2-2 was slowly added. This reaction mixture was stirred at room temperature for 1 hour.

reactant | sodium hydride | [H-].[Na+]
reactant | acetylacetone | 3.00 g | C(C)(=O)CC(C)=O | C5H8O2
reactant | 1,5-bis-(p-dimethylaminophenyl)-1,5-bis-(p-methoxyphenyl)-2,4-pentadiene-1-ol perchlorate | 12.3 g | CN(C1=CC=C(C=C1)C(C=CC=C(C1=CC=C(C=C1)OC)C1=CC=C(C=C1)N(C)C)(O)C1=CC=C(C=C1)OC)C.Cl(=O)(=O)(=O)[O-]
solvent | N,N-dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | 1,5-bis-(p-dimethylaminophenyl)-1,5-bis-(p-methoxyphenyl)-1,4-pentadiene 3-acetylacetone | CN(C1=CC=C(C=C1)C(=CCC=C(C1=CC=C(C=C1)OC)C1=CC=C(C=C1)N(C)C)C1=CC=C(C=C1)OC)C.C(C)(=O)CC(C)=O | InChI=1S/C35H38N2O2.C5H8O2/c1-36(2)30-18-10-26(11-19-30)34(28-14-22-32(38-5)23-15-28)8-7-9-35(29-16-24-33(39-6)25-17-29)27-12-20-31(21-13-27)37(3)4;1-4(6)3-5(2)7/h8-25H,7H2,1-6H3;3H2,1-2H3
